US06303593B1
N-allyl-N-(trimethylsilylmethyl)amine
To 118 mL (1.57 mol) of allylamine warmed at 40° C. in an inert atmosphere was very slowly added 100 mL (0.72 mol) of chloromethyl trimethylsilane (approximate rate of 1 mL/min). The reaction mixture was slowly warmed to 70° C. and stirred for 24 h. The reaction mixture was cooled to 0° C. and to it was added water to break tip the gel and then 300 mL of 2N NaOH solution. The reaction mixture was extracted with ether. The combined organic fractions were washed with 500 mL of sat'd NaCl solution, dried over Na2SO4, filtered and the filtrate was concentrated. The residue was purified by distillation (bp 80-84° C. @ 100 torr) to give 75 g of the title compound.

reactant | allylamine | 1.57 mol, 118 mL | C(C=C)N | C3H7N
reactant | chloromethyl trimethylsilane | 0.72 mol, 100 mL | ClC[Si](C)(C)C | C4H11ClSi
reactant | NaOH | 2N, 300 mL | [OH-].[Na+]
solvent | water | O | H2O
product | N-allyl-N-(trimethylsilylmethyl)amine | 75 g | C(C=C)NC[Si](C)(C)C | C7H17NSi
